US06359138B1
(RS)-6-methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid ethyl ester (1.39 g, 5.93 mmol) in THF (20 ml) was added dropwise to a suspension of LiAlH4 (473 mg, 12.46 mmol) at 0-10° C. over 15 min. The reaction was stirred for 1 hr at RT, then quenched by the addition of 4N NaOH (15 ml) and water (20 ml). After stirring vigorously for 15 min the mixture was extracted with EtOAc (25 ml), the aqueous phase was further extracted with EtOAc (2×25 ml), the combined organic extracts were washed with satd. NaCl solution (30 ml), dried (Na2SO4) filtered and evaporated to give the crude product as a clear oil. Chromatographic purification over SiO2 (Merck 230-400 mesh) eluting with EtOAc-nHexane (1:3) produced (RS)-(6-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-methanol as a colourless oil (989 mg, 5.14 mmol, 86%), MS m/e=192.1 (M−+).

reactant | (RS)-6-methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid ethyl ester | 5.93 mmol, 1.39 g | C(C)OC(=O)C1CC2=CC=C(C=C2CC1)OC | C14H18O3
reactant | LiAlH4 | 12.46 mmol, 473 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (RS)-(6-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-methanol | 5.14 mmol, 989 mg, 86% | COC=1C=C2CCC(CC2=CC1)CO | C12H16O2
